US07718657B2
1-Chloro-4-nitro-2,3-dihydro-1H-indene.
To a 0° C. solution of 4-nitro-2,3-dihydro-1H-inden-1-ol (252 mg, 1.41 mmol, 1.0 equiv) in dry toluene (2.5 mL) was added thionyl chloride (160 μL, 2.11 mmol, 1.5 equiv) dropwise by syringe. After stirring at 0° C. for 30 min, the reaction mixture was heated to 55° C. for 2 h. The reaction was allowed to cool to room temperature, washed twice with water, dried over sodium sulfate, filtered and concentrated in vacuo. The unpurified alkyl chloride (221 mg, 79%) was used without further purification.

reactant | 4-nitro-2,3-dihydro-1H-inden-1-ol | 1.41 mmol, 252 mg, 1.0 equiv | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)O | C9H9NO3
reactant | thionyl chloride | 2.11 mmol, 160 μL, 1.5 equiv | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Chloro-4-nitro-2,3-dihydro-1H-indene | ClC1CCC2=C(C=CC=C12)[N+](=O)[O-] | C9H8ClNO2
